US05668289
Step C: 3-Amino-6-trifluoromethyl-1-allyl-2-pyridinone
A solution of tin(II) chloride (924 mg, 4.09 mmol) in concentrated HCl (2.5 ml) was added dropwise to a stirred solution of 3-nitro-6-trifluoromethyl-1-allyl-2-pyridinone (127 mg, 0.512 mmol) in THF (6.5 ml) at -10° C. After 1 h at 0° C., the reaction was poured into a mixture of 50% sodium hydroxide and ice. The product was extracted into ethyl acetate, dried (Na2SO4), and evaporated in vacuo to give the title compound (106 mg): 1H NMR (CDCl3) selected signals at δ 4.63 (br s, 2H, NH2), 4.74 (d, J=5.4 Hz, 2H), 5.11-5.23 (m, 2H), 5.86-5.99 (m, 1H), 6.42 (d, J=7.7 Hz, 1H), 6.64 (d,J=7.7 Hz, 1H).

reactant | tin(II) chloride | 4.09 mmol, 924 mg | [Sn](Cl)Cl
reactant | 3-nitro-6-trifluoromethyl-1-allyl-2-pyridinone | 0.512 mmol, 127 mg | [N+](=O)([O-])C=1C(N(C(=CC1)C(F)(F)F)CC=C)=O | C9H7F3N2O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | HCl | 2.5 ml | Cl | ClH
solvent | THF | 6.5 ml | C1CCOC1 | C4H8O
product | 3-Amino-6-trifluoromethyl-1-allyl-2-pyridinone | 106 mg | NC=1C(N(C(=CC1)C(F)(F)F)CC=C)=O | C9H9F3N2O
